US07291603B2
To a solution of 4-amino-6-chloro-5-nitropyrimidine (320 mg, 1.83 mmol) in N,N-dimethyl formamide (5 mL) and triethylamine (512 μL, 3.67 mmol) was added (1S,2R,3S,5S)-3-Amino-5-hydroxymethyl-cyclopentane-1,2-diol (293 mg, 2.02 mmol). The mixture was stirred at room temperature and monitored by thin layer chromatography until starting material was no longer detected. The reaction mixture was diluted with water (20 mL) and extracted with diethyl ether (2×10 mL). The organic extract was washed with saturated aqueous sodium chloride (20 mL), dried over MgSO4, filtered and concentrated in vacuo to give the crude product. The product was recrystallized from hot methanol/water to give a 315 mg of (1S,2R,3S,5S)-3-(6-amino-5-nitro-pyrimidin-4-ylamino)-5-hydroxymethyl-cyclopentane-1,2-diol as a yellow solid.

reactant | 4-amino-6-chloro-5-nitropyrimidine | 1.83 mmol, 320 mg | NC1=NC=NC(=C1[N+](=O)[O-])Cl | C4H3ClN4O2
reactant | triethylamine | 3.67 mmol, 512 μL | C(C)N(CC)CC | C6H15N
reactant | (1S,2R,3S,5S)-3-Amino-5-hydroxymethyl-cyclopentane-1,2-diol | 2.02 mmol, 293 mg | N[C@@H]1[C@H]([C@H]([C@@H](C1)CO)O)O | C6H13NO3
solvent | N,N-dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | (1S,2R,3S,5S)-3-(6-amino-5-nitro-pyrimidin-4-ylamino)-5-hydroxymethyl-cyclopentane-1,2-diol | 315 mg | NC1=C(C(=NC=N1)N[C@@H]1[C@H]([C@H]([C@@H](C1)CO)O)O)[N+](=O)[O-] | C10H15N5O5
